US05679652
2.7 g (6 mmol) N4 -palmitoyl-2',3'-dideoxycytidine is added gradually to a mixture of 1.09 ml (12 mmol) phosphorylchloride and 20 ml trimethylphosphate that is stirred at 0° C. The batch is stirred for a further 2 hours when cold and then slowly neutralized with 0.5N NaOH during cooling. The precipitate that is formed is centrifuged off, absorbed in chloroform/methanol; 7/3; V/V, filtered over sodium sulphate and freed of solvent in a vacuum. The residue so obtained is crystallized several times from ethanol. When this is done, 2.5 g of N4 -palmitoyl-2',3'-dideoxycytidine-5'-phosphate is obtained and this displays an Rf value of 0.35 on the silica gel plate in the chloroform/methanol; 1/1; V/V system.

reactant | N4 -palmitoyl-2',3'-dideoxycytidine | 6 mmol, 2.7 g | C(CCCCCCCCCCCCCCC)(=O)NC1=NC(N([C@H]2CC[C@@H](CO)O2)C=C1)=O | C25H43N3O4
reactant | phosphorylchloride | 12 mmol, 1.09 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 0.5N | [OH-].[Na+]
reactant | trimethylphosphate | 20 ml | COP(=O)(OC)OC | C3H9O4P
product | N4 -palmitoyl-2',3'-dideoxycytidine-5'-phosphate | 2.5 g | P(=O)(O)(O)OC[C@@H]1CC[C@@H](O1)N1C(=O)N=C(NC(CCCCCCCCCCCCCCC)=O)C=C1 | C25H44N3O7P
